US07691860B2
Preparation of 8-(cis-4-tert-butylsulfonylamino-cyclohexyl)-2-(2-fluorophenyl)purine
By following the same procedure as described in Example 1 except that use was made of 4,5-diamino-2-(2-florophenyl)-pyrimidine and cis-4-tert-butylsulfonylaminocyclohexane-carboxylic acid as prepared from cis-4-aminocyclohexane-carboxylic acid in accordance with the 1st, 2nd and 4th steps of Example 4 described in WO0137826 in place of 4-trifluoromethyl-1,2-phenylenediamine, the title compound was prepared.

reactant | 4,5-diamino-2-(2-florophenyl)-pyrimidine | NC1=NC(=NC=C1N)C1=C(C=CC=C1)F | C10H9FN4
reactant | cis-4-tert-butylsulfonylaminocyclohexane-carboxylic acid | C(C)(C)(C)S(=O)(=O)N[C@H]1CC[C@H](CC1)C(=O)O | C11H21NO4S
reactant | cis-4-aminocyclohexane-carboxylic acid | N[C@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | 4-trifluoromethyl-1,2-phenylenediamine | FC(C1=CC(=C(C=C1)N)N)(F)F | C7H7F3N2
product | 8-(cis-4-tert-butylsulfonylamino-cyclohexyl)-2-(2-fluorophenyl)purine | C(C)(C)(C)S(=O)(=O)N[C@H]1CC[C@H](CC1)C1=NC2=NC(=NC=C2N1)C1=C(C=CC=C1)F | C21H26FN5O2S
